US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with 3-formylphenylboronic acid as described in Step 1 of Example 29 to afford 2-chloro-1-(3-formylphenyl)-1H-indole-3-carboxaldehyde (99% yield) as a white solid. ESI/MS 284 (M+H); RT 3.37 min; NMR 10.15 (1H, s); 10.12 (1H, s); 8.23 (3H, m); 7.98 (2H, m); 7.41 (2H, m); 7.18 (1H, d, J=9 Hz).

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 2-chloro-1-(3-formylphenyl)-1H-indole-3-carboxaldehyde | 99% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)C=O | C16H10ClNO2
